US06060508
60 g (347 mmol) of 2-bromophenol, 57.43 g (416 mmol) of potassium carbonate, 57 g (347 mmol) of potassium iodide, 600 ml of N,N-dimethylformamide and 4.34 g (416 mmol) of 3-chloro-2-butanone are introduced into a 1 liter three-necked flask equipped with a reflux condenser. The mixture is heated at 80° C. for 16 hours. 1500 ml of water are added and extraction is then carried out with ethyl acetate (3×400 ml). The organic phases are combined, washed with a molar sodium hydroxide solution (2×500 ml), dried over magnesium sulphate and concentrated. The residue is purified by chromatography on a silica column (elution solvent cyclohexane:ethyl acetate 9:1). 75.07 g (Yield: 89%) of 3-(2-bromophenoxy)-2-butanone (yellow oil) are obtained.

reactant | 2-bromophenol | 347 mmol, 60 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 416 mmol, 57.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 347 mmol, 57 g | [I-].[K+]
reactant | 3-chloro-2-butanone | 416 mmol, 4.34 g | ClC(C(C)=O)C | C4H7ClO
solvent | water | 1500 ml | O | H2O
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 3-(2-bromophenoxy)-2-butanone | 75.07 g, Yield: 89% | BrC1=C(OC(C(C)=O)C)C=CC=C1 | C10H11BrO2
